US05123951
To a stirred solution of 1.54 grams (0.01 mole) of 1-carboethoxycyclopropanecarboxylic acid (the monocarboxylic acid intermediate described in Example XVIII) and 0.99 gram (0.01 mole) of triethylamine in 75 milliliters of acetonitrile was added a solution of 1.06 grams (0.01 mole) of ethyl chloroformate in 25 milliliters of acetonitrile dropwise with cooling to 0° C.-5° C. After stirring at ice temperature for 30 minutes a solution of 1.52 grams (0.01 mole) of 4-chloro-2-ethylaniline in 20 milliliters of acetonitrile was fed dropwise with stirring and continued cooling. The reaction mixture was allowed to warm to room temperature, then stirred for approximately sixteen hours following which it was filtered and the filtrate freed of solvent by evaporation. The residue was dissolved in dichloromethane and extracted, successively, with water (2×50 milliliters), 2N HCl (2×50 milliliters) and water (1×50 milliliters). After drying (MgSO4), solvent was removed by evaporation and the solid recrystallized from hexane to give 1.15 grams (0.004 mole) of ethyl 1-(4-chloro-2-ethylphenylaminocarbonyl)cyclopropanecarboxylate as cream colored prisms having a melting point of 77° C.-80° C.

reactant | 1-carboethoxycyclopropanecarboxylic acid | 0.01 mole, 1.54 grams | C(=O)(OCC)C1(CC1)C(=O)O | C7H10O4
reactant | triethylamine | 0.01 mole, 0.99 gram | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.01 mole, 1.06 grams | ClC(=O)OCC | C3H5ClO2
reactant | 4-chloro-2-ethylaniline | 0.01 mole, 1.52 grams | ClC1=CC(=C(N)C=C1)CC | C8H10ClN
solvent | acetonitrile | 75 milliliters | C(C)#N | C2H3N
solvent | acetonitrile | 25 milliliters | C(C)#N | C2H3N
solvent | acetonitrile | 20 milliliters | C(C)#N | C2H3N
product | ethyl 1-(4-chloro-2-ethylphenylaminocarbonyl)cyclopropanecarboxylate | 0.004 mole, 1.15 grams | ClC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)OCC)CC | C15H18ClNO3
